US05030733
A solution of 9.3 g of 4-benzyloxy-1-tridecene in 40 ml of tetrahydrofuran was added, dropwise, under nitrogen, to 70.4 ml of 9-borabicyclo[3.3.1]nonane (0.5M solution in hexane). The reaction mixture was stirred at room temperature for 3 hrs. and quenched by the sequential addition of 18 ml of ethanol, 6 ml of 6N sodium hydroxide, and 12 ml of 30% hydrogen peroxide. The reaction mixture was heated at 50° for 2 hrs. and then allowed to stand at ambient temperature overnight. Upon standing the mixture separated into aqueous and organic phases. The aqueous phase was saturated with potassium carbonate and the organic phase was separated, washed with 30 ml of a 10% aqueous solution of sodium sulfite and 30 ml of a saturated aqueous solution of sodium chloride, dried over anhydrous potassium carbonate, and concentrated. The residue was taken up in 20% diethyl ether/hexane, filtered, and concentrated to an oil. Flash chromatography of the oil on silica gel using hexane diethyl ether (2:1 by volume) as the eluent yielded 7.7 g (80%) of 4-benzyloxytridecan-1-ol as an oil.

reactant | 4-benzyloxy-1-tridecene | 9.3 g | C(C1=CC=CC=C1)OC(CC=C)CCCCCCCCC | C20H32O
reactant | 9-borabicyclo[3.3.1]nonane | 0.5M, 70.4 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-benzyloxytridecan-1-ol | 7.7 g, 80% | C(C1=CC=CC=C1)OC(CCCO)CCCCCCCCC | C20H34O2
